US05849735
A mixture of 3 g of 4-(2-thienyl)benzoic acid and 30 ml of sulfonyl chloride is refluxed for 45 minutes and the solvent removed. The residue is dissolved in carbon tetrachloride and the solvent removed under vacuum (2-times) to give 4-(2-thienyl) benzoyl chloride. To a cooled (0° C.) solution of 2.0 g of 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine and 7 ml of N,N-diisopropylethylamine in 30 ml of dichloromethane is added dropwise a solution of 3.15 g of 4-(2-thienyl)benzoyl chloride in 30 ml of dichloromethane. The mixture is stirred at room temperature for 16 hours and diluted with 50 ml of chloroform. The solution is washed with 30 ml each of water, 2N HCl, saturated NaHCO3, water and dried (Na2 SO4). The solvent is removed under vacuum and the residue (3.1 g) chromatographed on silica gel (column) with hexane-ethyl acetate (2:1) as eluent to give 1.8 g of solid, m.p. 114° C.-116° C.

reactant | 4-(2-thienyl)benzoic acid | 3 g | S1C(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C11H8O2S
reactant | sulfonyl chloride | 30 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-(2-thienyl) benzoyl chloride | S1C(=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C11H7ClOS
